US07514566B2
A suspension of 4-(methoxymethyl)thiazol-2-amine (7.6 g, 53 mmol) in ACN (400 mL) was stirred at room temperature and treated with pyridine (13 mL, 158 mmol) and then di-tert-butyl dicarbonate (23 g, 105 mmol). The reaction mixture was stirred at room temperature overnight. The solvent was reduced in vacuo to approximately 20 mL, and the mixture was partitioned between EtOAc (200 mL) and 1 N HCl (150 mL). The aqueous layer was extracted again with EtOAc (150 mL), and the combined organic phases were washed with 1 N HCl (75 mL), saturated NaHCO3 (75 mL), and saturated NaCl (50 mL). The resulting mixture was dried over Na2SO4, filtered, concentrated, and purified by chromatography through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient 0-25% EtOAc/hexane to give tert-butyl 4-(methoxymethyl)thiazol-2-ylcarbamate (7.5 g, 58%). MS m/z: 245 (M+1).

reactant | 4-(methoxymethyl)thiazol-2-amine | 53 mmol, 7.6 g | COCC=1N=C(SC1)N | C5H8N2OS
reactant | pyridine | 158 mmol, 13 mL | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 105 mmol, 23 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ACN | 400 mL | C(C)#N | C2H3N
product | tert-butyl 4-(methoxymethyl)thiazol-2-ylcarbamate | 7.5 g, 58% | COCC=1N=C(SC1)NC(OC(C)(C)C)=O | C10H16N2O3S
